US07767675B2
Step 2. tert-butyl (2S)-2-([5-(2-aminopyrimidin-5-yl)pyridin-2-yl]carbonylamino)-3,3-dimethylbutanoate
N,N-Diisopropylethylamine (1.13 mL, 6.48 mmol) was added to a mixture of tert-butyl (2S)-2-amino-3,3-dimethylbutanoate hydrochloride (0.250 g, 1.12 mmol), and 5-(2-aminopyrimidin-5-yl)pyridine-2-carboxylic acid (0.242 g, 1.12 mmol) in N,N-dimethylformamide (10 mL). The mixture was stirred at RT for 3 h, and filtered. The filtrate was diluted with methanol (10 mL). The resulting solution was purified by RP-HPLC (pH 10) to give the desired product (182 mg, 42.3%). LCMS: (M+H)=386.2.

reactant | N,N-Diisopropylethylamine | 6.48 mmol, 1.13 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-butyl (2S)-2-amino-3,3-dimethylbutanoate hydrochloride | 1.12 mmol, 0.250 g | Cl.N[C@H](C(=O)OC(C)(C)C)C(C)(C)C
reactant | 5-(2-aminopyrimidin-5-yl)pyridine-2-carboxylic acid | 1.12 mmol, 0.242 g | NC1=NC=C(C=N1)C=1C=CC(=NC1)C(=O)O | C10H8N4O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | tert-butyl (2S)-2-([5-(2-aminopyrimidin-5-yl)pyridin-2-yl]carbonylamino)-3,3-dimethylbutanoate | 182 mg, 42.3% | NC1=NC=C(C=N1)C=1C=CC(=NC1)C(=O)N[C@H](C(=O)OC(C)(C)C)C(C)(C)C | C20H27N5O3
